US07125896B2
b) 2-(N-Pyrrolidinyl)-5-bromopyrimidine
Prepared from 2-chloro-5-bromopyrimidine and pyrrolidine by the method of Example 44 (b).

reactant | 2-chloro-5-bromopyrimidine | ClC1=NC=C(C=N1)Br | C4H2BrClN2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 2-(N-Pyrrolidinyl)-5-bromopyrimidine | N1(CCCC1)C1=NC=C(C=N1)Br | C8H10BrN3
